US06747023B1
1,5-Bis(t-butoxycarbonyl)-2-(t-butyldiphenylsiloxy)methyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine
To a solution of diisopropylamine (2.35 ml) in tetrahydrofuran (40 ml), n-butyl lithium (a 1.66 N hexane solution, 9.20 ml) was added at 0° C., followed by stirring for 30 minutes. To the reaction mixture, a solution of N-(t-butoxycarbonyl)-4-piperidone (2.77 g) in tetrahydrofuran (10 ml) was added at −78° C., and the mixture was stirred for 1.5 hours. To the reaction mixture, a solution of 2-(t-butoxycarbonylamino)-3-(t-butyldiphenylsiloxy)propanal (2.97 g) in tetrahydrofuran (10 ml) which had been cooled to −78° C. was added dropwise. The mixture was warmed up gradually and stirred for 13 hours. Water (150 ml) and diethyl ether (350 ml) were added to the reaction mixture to cause separation. The water layer was extracted with diethyl ether (100 ml). The organic layers were combined, washed with water (100 ml) and saturated aqueous NaCl solution (3×100 ml), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue thus obtained was dissolved in methylene chloride (20 ml). Concentrated hydrochloric acid was added dropwise and the mixture was adjusted to pH 5, followed by stirring for 1 hour. Concentrated hydrochloric acid was further added dropwise to adjust its pH to 4, followed by stirring for 1 hour. A saturated aqueous solution (50 ml) of sodium bicarbonate and methylene chloride (20 ml) were added to cause separation. The water layer was extracted with diethyl ether (2×50 ml). The organic layers were combined, washed with saturated aqueous NaCl solution (50 ml), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue thus obtained was purified by chromatography on a silica gel column (150 g of silica gel, hexane:ethyl acetate=8:1→4:1), whereby the title compound (2.20 g) was obtained as a colorless transparent caramel-like substance. IR(KBr)cm−1: 2931, 2856, 1738, 1697, 1473, 1427, 1392, 1367, 1350, 1331, 1232, 1167, 1144, 1109, 1066, 822, 739. 1H-NMR (CDCl3) δ: 1.08(9H,s), 1.43(9H,s), 1.49(9H,s), 2.89(2H,br s), 3.64(2H,br s), 4.32(2H,s), 4.85(2H,br s), 6.12(1H,s), 7.30-7.48(6H,m), 7.60-7.75(4H,m). MS(FAB/m-NBA/NaCl) m/z: 613[(M+Na)+].

reactant | diisopropylamine | 2.35 ml | C(C)(C)NC(C)C | C6H15N
reactant | N-(t-butoxycarbonyl)-4-piperidone | 2.77 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | 2-(t-butoxycarbonylamino)-3-(t-butyldiphenylsiloxy)propanal | 2.97 g | C(C)(C)(C)OC(=O)NC(C=O)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C24H33NO4Si
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
reactant | NaCl | [Na+].[Cl-]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | n-butyl lithium | C(CCC)[Li]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 350 ml | C(C)OCC | C4H10O
solvent | Water | 150 ml | O | H2O
solvent | hexane | 1.66 N | CCCCCC | C6H14
product | 1,5-Bis(t-butoxycarbonyl)-2-(t-butyldiphenylsiloxy)methyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | C(C)(C)(C)OC(=O)N1C(=CC=2CN(CCC21)C(=O)OC(C)(C)C)CO[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C | C34H46N2O5Si
